US06066639
To a 100 mL 14/20 round bottom flask was charged 2.4 g (10.1 mmol) of 2-bromo-5-thiazolecarboxylic acid ethyl ester dissolved in 14 mL of 1N sodium hydroxide. The reaction was stirred at room temperature for 1.5 hours The yellow solution was acidified with SN hydrochloric acid to pH 2. The solid which formed was cooled in an ice bath, filtered, washed with water, and dried in a vacuum oven at 60° C. to give 1.9 g (90%) of 2-bromo-5-thiazolecarboxylic acid m.p. 185-186° C. (dec) as a white solid. Rf =0.12 (20% methanol/chloroform). 1H NMR (300 MHz, DMSO d6) δ 8.19(s, 1H).

reactant | 2-bromo-5-thiazolecarboxylic acid ethyl ester | 10.1 mmol, 2.4 g | C(C)OC(=O)C1=CN=C(S1)Br | C6H6BrNO2S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 14 mL | [OH-].[Na+]
product | 2-bromo-5-thiazolecarboxylic acid | 1.9 g, 90% | BrC=1SC(=CN1)C(=O)O | C4H2BrNO2S
